US08957070B2
7-{[(1-Methyl-1H-imidazol-2-yl) sulfinyl]methyl}-2-(1,3-thiazol-2-yl)-1H-indole
To a solution of 7-{[(1-methyl-1H-imidazol-2-yl)thio]methyl}-2-(1,3-thiazol-2-yl)-1H-indole (0.087 g) in ethyl acetate was added m-chloroperbenzoic acid (0.070 g) under ice-cooling, and the mixture was stirred at 0° C. for 1 hr. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=50:50-100:0) to give the title compound (0.028 g, yield 31%) as colorless crystals.

reactant | 7-{[(1-methyl-1H-imidazol-2-yl)thio]methyl}-2-(1,3-thiazol-2-yl)-1H-indole | 0.087 g | CN1C(=NC=C1)SCC=1C=CC=C2C=C(NC12)C=1SC=CN1 | C16H14N4S2
reactant | m-chloroperbenzoic acid | 0.070 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-{[(1-Methyl-1H-imidazol-2-yl) sulfinyl]methyl}-2-(1,3-thiazol-2-yl)-1H-indole | 0.028 g, yield 31% | CN1C(=NC=C1)S(=O)CC=1C=CC=C2C=C(NC12)C=1SC=CN1 | C16H14N4OS2
